US04589905
5-Cyano-1-(3-cyanophenyl)-N-methyl-N-ethyl-1H-pyrazole-4-carboxamide
Two grams of carbonyldiimidazole was added to a solution of 2.0 g of 5-cyano-1-(3-cyanophenyl)-1H-pyrazole-4-carboxylic acid dissolved in 50 ml of DMF. The reaction mixture was stirred at room temperature for approximately 25 minutes whereupon 740 mg of N-ethyl-N-methylamine was added. The reaction mixture was allowed to stir for an additional 24 hours at which point the solution was poured into ice water. The precipitate solid was collected by filtration and dried to provide 1.2 g of 5-cyano-1-(3-cyanophenyl)-N-methyl-N-ethyl-1H-pyrazole-4-carboxamide following recrystallization from ethanol. MP=185°-187° C.

reactant | carbonyldiimidazole | Two grams | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-cyano-1-(3-cyanophenyl)-1H-pyrazole-4-carboxylic acid | 2.0 g | C(#N)C1=C(C=NN1C1=CC(=CC=C1)C#N)C(=O)O | C12H6N4O2
reactant | N-ethyl-N-methylamine | 740 mg | C(C)NC | C3H9N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-Cyano-1-(3-cyanophenyl)-N-methyl-N-ethyl-1H-pyrazole-4-carboxamide | C(#N)C1=C(C=NN1C1=CC(=CC=C1)C#N)C(=O)N(CC)C | C15H13N5O
